US06676851B1
A mixture of 2,5-dihydroxybenzoic acid (4.6 g; 30 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (5.0 g; 33 mmol), 4-bromobutyronitrile (4.9 g; 33 mmol) and acetonitrile (70 ml) was heated under reflux overnight. The reaction mixture was added to water (500 ml) and extracted with ethyl acetate (3×100 ml). The combined organic layers were washed with 1N-hydrochloric acid (150 ml) and water (2×150 ml), dried over magnesium sulphate and filtered. The organic solvent was then removed in vacuo. The residue (6.2 g) was recrystallised from ethyl acetate/hexane to yield 5.2 g (78%) of the desired 3-cyanopropyl 2,5-dihydroxybenzoate.

reactant | 2,5-dihydroxybenzoic acid | 30 mmol, 4.6 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 33 mmol, 5.0 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-bromobutyronitrile | 33 mmol, 4.9 g | BrCCCC#N | C4H6BrN
reactant | acetonitrile | 70 ml | C(C)#N | C2H3N
solvent | water | 500 ml | O | H2O
product | 3-cyanopropyl 2,5-dihydroxybenzoate | 5.2 g, 78% | OC1=C(C(=O)OCCCC#N)C=C(C=C1)O | C11H11NO4
